US08309546B2
4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-cis-2,6-dimethylpiperazine-1-carboaldehyde
5-[8-(cis-3,5-Dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (101.7 mg, 0.21 mmol) were added to a tetrahydrofuran solution (5.0 ml) of 1H-benzotriazole-1-carboxyaldehyde (33.8 mg, 0.21 mmol) at room temperature and the resulting mixture was stirred for 1 day. 1H-Benzotriazole-1-carboxyaldehyde (5.1 mg, 0.03 mmol) was added, the resulting mixture was further stirred for 1 day, and then the reaction mixture was poured into methylene chloride and washed with a 2 N aqueous sodium hydroxide solution. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (98.0 mg, 91%) as a pale yellow solid.

reactant | 5-[8-(cis-3,5-Dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.21 mmol, 101.7 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C21H27F3N10O
reactant | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
reactant | 1H-benzotriazole-1-carboxyaldehyde | 0.21 mmol, 33.8 mg | CN(C)CCS(=O)(=O)O | C4H11NO3S
reactant | 1H-Benzotriazole-1-carboxyaldehyde | 0.03 mmol, 5.1 mg | CN(C)CCS(=O)(=O)O | C4H11NO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-cis-2,6-dimethylpiperazine-1-carboaldehyde | 98.0 mg, 91% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)N1C[C@@H](N([C@@H](C1)C)C=O)C)N1CCOCC1 | C22H27F3N10O2
